US07452886B2
To a suspension of catalytic amount of PtO2 in MeOH (20 ml) and AcOEt (20 ml), 7-(2,2-dimethyl-propyl)-6-[4-(5-nitro-pyrimidin-2-yl)-piperazin-1-ylmethyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (1.15 mmol) is added and the mixture is stirred under H2 atmosphere. After being stirred for 3 h, the reaction mixture is filtered through celite and concentrated under reduced pressure to give crude amine. To a solution of the crude amine in pyridine (10 ml), methanesulfonyl chloride (1.99 mmol) is added at 0° C. and the mixture is allowed to warm to ambient temperature and stirred for 2 h. The reaction mixture is poured into ice water and extracted with AcOEt. The combined extracts are washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent; n-hexane:AcOEt=1:1) to give 296 mg of desired N-(4-{4-[2-cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-piperazin-1-yl}-phenyl)-methanesulfonamide in 49% yield. Rf=0.52 (AcOEt only). 1H NMR (400 MHz, CDCl3) δ 1.02 (s, 9H), 2.55-2.65 (m, 4H), 2.94 (s, 3H), 3.15-3.25 (m, 4H), 3.85 (s, 2H), 4.37 (s, 2H), 6.17 (brs, 1H), 6.61 (s, 1H), 6.88 (d, 2H), 7.15 (d, 2H), 8.91 (s, 1H)

reactant | 7-(2,2-dimethyl-propyl)-6-[4-(5-nitro-pyrimidin-2-yl)-piperazin-1-ylmethyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 1.15 mmol | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2CCN(CC2)C2=NC=C(C=N2)[N+](=O)[O-])(C)C | C21H25N9O2
reactant | methanesulfonyl chloride | 1.99 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | AcOEt | 20 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 20 ml | CO | CH4O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
catalyst | PtO2 | O=[Pt]=O
product | N-(4-{4-[2-cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-piperazin-1-yl}-phenyl)-methanesulfonamide | 296 mg, 49% yield | C(#N)C=1N=CC2=C(N1)N(C(=C2)CN2CCN(CC2)C2=CC=C(C=C2)NS(=O)(=O)C)CC(C)(C)C | C24H31N7O2S
